Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal distention
 
Major Surgical or Invasive Procedure:
Therapeutic paracentesis
Dobhoff placement for feeding (located in stomach), bridled

 
History of Present Illness:
___ with HCV and alcohol induced (?) cirrhosis (MELD 23, CHILDS 
C on transplant list) with decompensation characterized by 
history of ascites and encephalopathy currently on sofosbuvir 
and ribavirin admitted with ___ and worsening nutritional 
status. 

Mr. ___ was previously seen in ___ and complained of 
worsening abdominal girth and lower extremity edema. At that 
time, patient's amiloride was increased to 10mg per day and 
lasix increased to 40mg per day. He was advised to contact the 
clinic if his symptoms worsened however he did not do so and was 
instead seen by his GI physician at ___ (Dr. ___ who 
increased his amiloride to 10mg BID and lasix to 60mg daily. 
Unfortunately, patient continued to gain weight despite 
increased diuretics. He was seen in the liver clinic by Dr. 
___ Dr. ___ on ___ and was noted to be firmly 
distended with worsened peripheral edema and was scheduled for 
labs and outpatient paracentesis (diagnostic and therapeutic). 
Patient's labs were notable for ___ with creatinine to 2.0 from 
1.1 at baseline and decision was made to admit for work-up of 
___ following paracentesis on ___. Patient was initally 
informed to increase his lasix to 60mg BID however given ___, 
his diuretics were held. 

Mr. ___ underwent paracentesis with radiology this morning 
with 4L taken off and was given 50g albumin pre-procedure and 
50g albumin post-procedurally.

With regards to Mr. ___ nutritional status, he has continued 
to have worsening weakness and muscle wasting despite his weight 
gain with persistently low albumin (2.8 on ___ consistent with 
significant malnutrition. Discussion has been had with patient 
regarding need for feeding tube in the near future. 

On arrival to the floor, Mr. ___ reports that he is feeling 
well and improved since paracentesis. He reports that he has had 
progressive swelling and edema for last several months. Prior to 
this, patient without history of ascites requiring paracentesis 
and no clear history of significant hepatic encephalopathy. Was 
previously well compensated cirrhosis prior to this most recent 
worsening. Does note loose stools, ___ for last several 
months.

 
Past Medical History:
1.  HCV mediated cirrhosis, Child's C 12, MELD at 24, 
complicated in the past by ascites and coagulopathy
2.  Genotype 3 hepatitis C, currently in the midst of a 24-week
course of sofosbuvir and ribavirin.
3.  Moderate malnutrition with albumin of 2.5 and significant
sarcopenia.
4.  Inguinal hernia repairs in the ___.
5.  Heart murmur.
6.  Tonsillectomy in the ___.

 
Social History:
___
Family History:
No family history of liver disease or malignancy other than skin 
cancer in mother and father
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS:  98.1 104/67 65 18 96%RA
General: NAD, lying comfortably in bed
HEENT: sclera anicteric, oropharynx clear  
Neck: supple, no LAD, no thyromegaly   
CV:  JVD to level of the ear. RRR, no m/g/r
Lungs: CTA B
Abdomen: soft, slightly distended with palpable fluid wave.
GU: no foley
Ext: pedal edema to level of knee  
Neuro: CN intact, AOx3
Skin: no rashes or lesions

DISCHARGE PHYSICAL EXAMINATION:  
98.1 113/63 64 18 96RA
General: NAD, sitting up in bed
HEENT: sclera anicteric, oropharynx clear  
Neck: supple, no LAD, no thyromegaly   
CV:  JVD to mid-neck. RRR, no m/g/r
Lungs: CTAB
Abdomen: soft, distended with palpable fluid wave.
GU: no foley
Ext: pedal edema to level of knee  
Neuro: CN intact, AOx3
Skin: no rashes or lesions

 
Pertinent Results:
ADMIT LABS
___ 12:30PM BLOOD WBC-8.3# RBC-3.04* Hgb-11.1* Hct-35.3* 
MCV-116* MCH-36.6* MCHC-31.5 RDW-14.9 Plt ___
___ 12:30PM BLOOD Neuts-78.3* Lymphs-15.4* Monos-3.7 
Eos-2.2 Baso-0.3
___ 12:30PM BLOOD ___
___ 12:30PM BLOOD UreaN-36* Creat-2.0*# Na-135 K-4.5 Cl-100 
HCO3-27 AnGap-13
___ 12:30PM BLOOD ALT-71* AST-123* AlkPhos-130 TotBili-4.0*
___ 12:30PM BLOOD Albumin-2.8*

DISCHARGE LABS
___ 06:08AM BLOOD WBC-6.5 RBC-2.45* Hgb-8.9* Hct-27.7* 
MCV-113* MCH-36.3* MCHC-32.2 RDW-15.3 Plt Ct-85*
___ 06:08AM BLOOD ___ PTT-51.7* ___
___ 06:08AM BLOOD Glucose-131* UreaN-24* Creat-0.9 Na-131* 
K-4.5 Cl-99 HCO3-28 AnGap-9
___ 06:08AM BLOOD ALT-79* AST-141* AlkPhos-98 TotBili-4.4*
___ 06:08AM BLOOD Calcium-8.0* Phos-2.0* Mg-2.2

Liver US ___:
1.  Cirrhosis with large ascites.  No focal hepatic lesion 
identified. 
2.  Patent hepatic vasculature. 

CXR ___:
In comparison with the study of ___, there is an placement of 
a Dobbhoff tube which, on the final image, is in the mid body of 
the stomach.  Allowing for the AP supine position, there is 
probably little overall change in the appearance of the heart 
and lungs.  No evidence of acute pneumonia 

 
Brief Hospital Course:
___ with decompensated HCV  cirrhosis (ascites, coagulopathy) on 
transplant list with MELD of 23 presenting with worsening volume 
overload, malnutrition and ___ with creatinine of 2.0. 
  
#HCV cirrhosis: 
Decompensated by coagulopathy and ascites on admission. 
Bilirubin level was stable and no signs of HE although on 
rifaximin (was not taking lactulose at home). He is currently 
being treated with sofosbuvir/ribavirin and had cleared his 
viral load after 1 month of treatment. Ribavirin and sofosbuvir 
were initially discontinued due to ___ but restarted with renal 
improvement. Ribavirin was started at a lower dose due to 
chronic anemia caused by the drug and Sofosbuvir was restarted 
at the home dose.

___: 
Patient with baseline creatinine of 0.9, was increased to 2.0 on 
___ in setting of increasing doses of diuretics. After 
paracentesis of tense ascites and holding diuretics, his Cr 
improve to his baseline, suggestive of either vascular depletion 
from diuretics or tense ascites causing renal vascular 
compression or simple volume overload.

# Nutrition: 
Patient's cirrhosis and ascites had been causing decreased 
appetitite due to gastric compression as well as a catabolic 
state leading to muscle wasting. Nutrition was consulted and 
calorie counts were initiated. A Dobhoff tube was placed at the 
bedside and supplemental tube feedings were initiated. The 
patient was tolerating tube feeds well during the day prior to 
discharge. He had mild hypophosphatemia in the setting of tube 
feeds which was repleted prior to discharge.

# Ascites: 
Patient with history of significant ascites, worsening over last 
few weeks despite increased diuretics and becoming tense 
ascites. He had 4L removed in the ED on admit with resolution of 
the tensity, and a second therapeutic paracentesis for 5L was 
performed prior to discharge.

# Varices: 
He had EGD performed during this admission with Grade 2 varices 
visualized. He was started on nadolol for treatment of 
esophageal varices.

# Anemia: 
He has baseline Hgb of 11 due to Ribavirin induced anemia. 
Initial drop of 11 to 7.5 in Hgb thought to be dilutional in the 
setting of immediate prior albumin administration. No signs or 
symptoms of bleeding were appreciated and his counts began to 
return to his baseline. He was given 1u PRBCs given his severe 
liver disease and significant anemia. 

Transitional Issues:
-Please repeat creatinine and sodium on ___ and fax result to 
___ to ensure stable creatinine and sodium on diuretics
-Please repeat chemistries on ___ to ensure no refeeding 
syndrome
-Please follow-up peritoneal fluid culture from ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiloride HCl 10 mg PO BID 
2. FoLIC Acid 3 mg PO DAILY 
3. Furosemide 60 mg PO DAILY 
4. Lactulose 15 mL PO TID constipation/confusion 
5. Omeprazole 20 mg PO DAILY 
6. Ribavirin 600 mg PO QAM 
7. Ribavirin 400 mg PO QPM 
8. Rifaximin 550 mg PO BID 
9. Sertraline 100 mg PO DAILY 
10. Sofosbuvir 400 mg PO DAILY 
11. Vitamin D ___ UNIT PO DAILY 
12. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Feeding Pump
Please provide Kangaroo ___ Pump and supplies
2. Free water flushes
Please provide free water flushes for dobhoff tube. 
Dispense 60 100cc syringes
3. Jevity 1.5 Cal (lactose-free food with fiber) 0.06 gram-1.5 
kcal/mL oral Continuous 
Please give at 55cc/hr through dobhoff tube with residual check 
q8h and free water flush q4h 
4. Jevity
Please provide one month supply of Jevity 1.5 to be given 
55cc/hr continous infusion via dobhoff in stomach. 
3 Refills
5. Amiloride HCl 5 mg PO DAILY 
RX *amiloride 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0
6. FoLIC Acid 3 mg PO DAILY 
7. Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 20 mg PO DAILY 
10. Ribavirin 600 mg PO QAM 
11. Ribavirin 400 mg PO QPM 
12. Rifaximin 550 mg PO BID 
13. Sertraline 100 mg PO DAILY 
14. Sofosbuvir 400 mg PO DAILY 
15. Vitamin D ___ UNIT PO DAILY 
16. Nadolol 40 mg PO DAILY 
RX *nadolol 40 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0
17. Lactulose 15 mL PO TID constipation/confusion 
18. Outpatient Lab Work
Please draw chem 10 on ___ and fax result to Dr. ___ at 
___. 
ICD-9 571.5

 
Discharge Disposition:
Home With Service
 
Facility:
 ___
 
Discharge Diagnosis:
Acute Kidney Injury
Decompensated HCV cirrhosis with ascites
Malnutrition

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted with worsening kindey function and poor PO 
intake. You had a paracentesis with 4L removed and your kidney 
function improved. You had an EGD which did show varices and a 
feeding tube was placed to help you improve your nutrition at 
home. You have been set up with a home infusion company who will 
assist with tube feeding at home.

It is very important that you continue to take all of your 
medications as prescribed. We have decreased your diuretic doses 
to help protect your kidneys and started nadolol to prevent 
bleeding from varices.

It was a pleasure taking care of you!
Your ___ Care Team
 
Followup Instructions:
___